US04820844
1-(2'-hydroxy-3'-piperidinopropyl)-4-nitro-1,2,3-triazole-hydrochloride
A mixture of 0.5 g of 1-(2'-hydroxy-3'-chloropropyl)-4-nitro-1,2,3-triazole and 3 g of piperidine in 10 ml of THF is refluxed for 1 hr with stirring. The solvent and excess piperidine are removed. The residue is dissolved in chloroform and washed with 5 ml of 1% NaOH solution. The solvent is evaporated to dryness, dissolved in dilute HCl solution washed with chloroform.

reactant | 1-(2'-hydroxy-3'-chloropropyl)-4-nitro-1,2,3-triazole | 0.5 g | OC(CN1N=NC(=C1)[N+](=O)[O-])CCl | C5H7ClN4O3
reactant | piperidine | 3 g | N1CCCCC1 | C5H11N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(2'-hydroxy-3'-piperidinopropyl)-4-nitro-1,2,3-triazole-hydrochloride | Cl.OC(CN1N=NC(=C1)[N+](=O)[O-])CN1CCCCC1 | InChI=1S/C10H17N5O3.ClH/c16-9(6-13-4-2-1-3-5-13)7-14-8-10(11-12-14)15(17)18;/h8-9,16H,1-7H2;1H
